US06602897B2
15 g of N,N-dimethyl-4-bromo-2-methyl-3-nitroaniline is dissolved in about 200 ml of THF and hydrogenated at 20° C. under 5 bars pressure of hydrogen using Raney nickel as catalyst. 12 g of 2-bromo-5-dimethylamino-6-methylaniline is obtained as a brown oil.

reactant | N,N-dimethyl-4-bromo-2-methyl-3-nitroaniline | 15 g | CN(C1=C(C(=C(C=C1)Br)[N+](=O)[O-])C)C | C9H11BrN2O2
solvent | THF | about 200 ml | C1CCOC1 | C4H8O
solvent | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
product | 2-bromo-5-dimethylamino-6-methylaniline | 12 g | BrC1=C(N)C(=C(C=C1)N(C)C)C | C9H13BrN2
